US05432177
3-(4-[4-Methoxyphenyl]piperazin-1-yl)methyl-1-methyl-1H-pyrrolo[2,3-b]pyridine
Sodium hydride (80% dispersion in oil; 0.13 g, 4.3 mmol) was added to a solution of 3-(4-(4-methoxyphenyl)piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine (1.06 g, 3.29 mmol) in dimethylformamide (30 ml) at 0° C. The cooling bath was removed and the mixture stirred at room temperature for an hour. Methyl iodide (0.22 ml, 3.53 mmol) was added and the reaction mixture stirred for 2 h at room temperature. The mixture was poured into water (300 ml), extracted with ethyl acetate (2×150 ml), and the extracts washed with brine (150 ml). The combined extracts were dried (MgSO4) and evaporated to give a yellow solid. Purification by flash chromatography, eluting with 5% then 7.5% methanol in dichloromethane, gave the title compound (0.87 g, 79%). Recrystallisation from ethyl acetate/petrol (60°-80° C.) gave fine needles, m.p. 92°-94° C.; (Found: C, 71.25; H, 7.18; N, 16.49. C20H24N4O requires C, 71.40; H, 7.19; N, 16.65%); δH (CDCl3) 2.65 (4H, m, 2×piperazinyl CH2), 3.09 (4H, m, 2×piperazinyl CH2), 3.74 (2H, s, CH2N), 3.75 (3H, s, ArOCH3), 3.87 (3H, s, N-CH3), 6.85 (4H, m, ArH), 7.05 (1H, dd, J 7.8, 4.7 Hz, 5-H), 7.15 (1H, br s, 2-H), 8.04 (1H, dd, J 7.8, 1.5 Hz, 4-H), and 8.33 (1H, dd, J 4.7, 1.5 Hz, 6-H); m/z (CI+, NH3) 337 (M+1)+.

reactant | Sodium hydride | 4.3 mmol, 0.13 g | [H-].[Na+]
reactant | 3-(4-(4-methoxyphenyl)piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 3.29 mmol, 1.06 g | COC1=CC=C(C=C1)N1CCN(CC1)CC1=CNC2=NC=CC=C21 | C19H22N4O
reactant | Methyl iodide | 3.53 mmol, 0.22 ml | CI | CH3I
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(4-[4-Methoxyphenyl]piperazin-1-yl)methyl-1-methyl-1H-pyrrolo[2,3-b]pyridine | 0.87 g, 79% | COC1=CC=C(C=C1)N1CCN(CC1)CC1=CN(C2=NC=CC=C21)C | C20H24N4O
